US07351858B2
Acetic acid (1.321 g, 22.000 mmol) was dissolved in DMF (10 ml), 1-(4-chlorophenyl)methanamine (2.804 g, 19.800 mmol) was added and the mixture was cooled to 0° C. N-[(1H-1,2,3-benzotriazol-1-yloxy)(dimethylamino)methylene]-N-methylmethanaminium tetrafluoroborate (7.770 g, 24.200 mmol) and N-ethyl-N,N-diisopropylamine (5.971 g, 46.200 mmol) was added. The solution was stirred for two hours at room temperature. EtOAc (20 ml) was added and the organic phase was washed with Na2CO3 (3×20 ml, aq) and HCl (0.5 M, 2×, 10 ml). The organic layer was dried (MgSO4) and the solvent was removed by evaporation. The residue was purified by preparative HPLC (the initial mobile phase was isocratic acetonitrile/buffer 60/40 and then the acetonitrile concentration was increased to 100%, the buffer was a mixture of acetonitrile/water 10/90 and ammonium acetate (0.1 M, column KR-100-7-C8, 50 mm×250 mm, flow 40 ml/min). The product-containing fractions were pooled and the acetonitrile was removed by evaporation. EtOAc (10 ml) was added and the organic phase was washed with two portions of brine and dried (MgSO4) and the solvent was removed by evaporation and gave 2.337 g of N-(4-chlorobenzyl)acetamide (yield 57.8%).

reactant | Acetic acid | 22.000 mmol, 1.321 g | C(C)(=O)O | C2H4O2
reactant | 1-(4-chlorophenyl)methanamine | 19.800 mmol, 2.804 g | ClC1=CC=C(C=C1)CN | C7H8ClN
reactant | N-[(1H-1,2,3-benzotriazol-1-yloxy)(dimethylamino)methylene]-N-methylmethanaminium tetrafluoroborate | 24.200 mmol, 7.770 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N-ethyl-N,N-diisopropylamine | 46.200 mmol, 5.971 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
product | N-(4-chlorobenzyl)acetamide | 2.337 g, yield 57.8% | ClC1=CC=C(CNC(C)=O)C=C1 | C9H10ClNO
